US09328114B2
8-((2-ethynyl-5-methoxyphenyl)thio)-9-(2-(neopentylamino)ethyl)-9H-purin-6-amine (PU-WS31).
9-(3-(isopropylamino)propyl)-8-(6-(oxazol-2-yl)benzo[d][1,3]dioxol-5-ylthio)-9H-purin-6-amine [DZ4-20]. A mixture of PU-H71 (30 mg, 0.0585 mmol), 2-(tri-n-butylstannyl)oxazole (83.8 mg, 49 μl, 0.234 mmol), LiCl (5 mg, 0.117 mmol) and Pd(PPh3)4 (6.7 mg, 0.0058 mmol) in DMF (1 mL) was evacuated and back filled with nitrogen. This was repeated four times then the reaction mixture was heated under nitrogen at 90° C. for 18 h. Solvent was removed under reduced pressure and the resulting residue was purified by preparatory TLC (hexane:CH2Cl2:EtOAC:MeOH—NH3 (7N), 2:2:1:0.5) to give 20.8 mg (78%) of DZ4-20. 1H NMR (500 MHz, CDCl3/MeOH-d4) δ 8.25 (s, 1H), 7.75 (s, 1H), 7.46 (s, 1H), 7.27 (s, 1H), 6.71 (s, 1H), 6.06 (s, 2H), 4.26 (t, J=6.9 Hz, 2H), 2.75 (septet, J=6.3 Hz, 1H), 2.53 (t, J=6.9 Hz, 2H), 1.98 (m, 2H), 1.06 (d, J=6.3 Hz, 6H); HRMS (ESI) m/z [M+H]+ calcd. for C21H24N7O3S, 454.1661; found. 454.1650; HPLC: method A Rt=5.77, method B Rt=5.28.

reactant | 9-(3-(isopropylamino)propyl)-8-(6-(oxazol-2-yl)benzo[d][1,3]dioxol-5-ylthio)-9H-purin-6-amine | C(C)(C)NCCCN1C2=NC=NC(=C2N=C1SC1=CC2=C(OCO2)C=C1C=1OC=CN1)N | C21H23N7O3S
reactant | PU-H71 | 0.0585 mmol, 30 mg | CC(C)NCCCN1C2=C(C(=NC=N2)N)N=C1SC3=C(C=C4C(=C3)OCO4)I | C18H21IN6O2S
reactant | 2-(tri-n-butylstannyl)oxazole | 0.234 mmol, 49 μl, 83.8 mg | C(CCC)[Sn](C=1OC=CN1)(CCCC)CCCC
reactant | LiCl | 0.117 mmol, 5 mg | [Li+].[Cl-]
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.0058 mmol, 6.7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-((2-ethynyl-5-methoxyphenyl)thio)-9-(2-(neopentylamino)ethyl)-9H-purin-6-amine | C(#C)C1=C(C=C(C=C1)OC)SC=1N(C2=NC=NC(=C2N1)N)CCNCC(C)(C)C | C21H26N6OS
